US05124308
N-(1-naphthylmethyl)dithiooxamide
Using the general procedure outlined in Experiment 2, N-(2-dodecanoyloxyethyl)dithiooxamide was synthesized from N-(2-hydroxyethyl)dithiooxamide and dodecanoyl chloride, and N-(2-decanoyloxyethyl)dithiooxamide was synthesized from N-(2-hydroxyethyl)dithiooxamide and decanoyl chloride.

reactant | N-(2-dodecanoyloxyethyl)dithiooxamide | C(CCCCCCCCCCC)(=O)OCCNC(=S)C(=S)N | C16H30N2O2S2
reactant | N-(2-hydroxyethyl)dithiooxamide | OCCNC(=S)C(=S)N | C4H8N2OS2
reactant | dodecanoyl chloride | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | N-(2-decanoyloxyethyl)dithiooxamide | C(CCCCCCCCC)(=O)OCCNC(=S)C(=S)N | C14H26N2O2S2
reactant | decanoyl chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
product | N-(1-naphthylmethyl)dithiooxamide | C1(=CC=CC2=CC=CC=C12)CNC(=S)C(=S)N | C13H12N2S2
